US08633175B2
Intermediate I-IX-8: 4-(1,3-dioxolan-2-yl)-3-(trifluoromethyl)phenylboronic acid
The title compound was prepared from 2-[4-iodo-2-(trifluoromethyl)phenyl]-1,3-dioxolane (Example I-IX-7) according to the procedure described for Example V-18, with the following exceptions: the aryl iodide and i-PrMgCl were aged 45 min before introduction of the electrophile (instead of 30 min); trimethyl borate was used as the electrophile (instead of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane); the dried organic extracts were concentrated to dryness and triturated with Et2O/hexanes (instead of flash chromatography). White solid. LC/MS (method A) 2.22 min, m/z 417 ({2[M−glycol]−H2O}−H, 23%), 217 ([M−glycol]−H, 57%), 189 (100%, −ve ion).

reactant | 2-[4-iodo-2-(trifluoromethyl)phenyl]-1,3-dioxolane | IC1=CC(=C(C=C1)C1OCCO1)C(F)(F)F | C10H8F3IO2
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
product | 4-(1,3-dioxolan-2-yl)-3-(trifluoromethyl)phenylboronic acid | O1C(OCC1)C1=C(C=C(C=C1)B(O)O)C(F)(F)F | C10H10BF3O4
